US06680317B2
b) 6-Amino3chloro-2-(piperazine-1-sulfonyl)-phenol
Following the general procedure for the hydrolysis of the benzooxazole to the desired aniline outlined in example 51, 4(2-tert-butyl-6-chloro-benzooxazole-7-sulfonyl)-piperazine-1-carboxylic acid tert-butyl ester (2.0 g, 4.3 mmol), water (3.65 mL), and H2SO4 (3.65 mL) in 1,4-dioxane (60 mL) were reacted to afford the title compound (1.22 g, 96%). LCMS m/z 292(M−H)+.

reactant | benzooxazole | O1C=NC2=C1C=CC=C2 | C7H5NO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 4(2-tert-butyl-6-chloro-benzooxazole-7-sulfonyl)-piperazine-1-carboxylic acid tert-butyl ester | 4.3 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=C(C=CC=2N=C(OC21)C(C)(C)C)Cl | C20H28ClN3O5S
reactant | H2SO4 | 3.65 mL | OS(=O)(=O)O | H2O4S
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | water | 3.65 mL | O | H2O
product | 6-Amino3chloro-2-(piperazine-1-sulfonyl)-phenol | 1.22 g, 96% | NC1=CC=C(C(=C1O)S(=O)(=O)N1CCNCC1)Cl | C10H14ClN3O3S
